US05753652
b) 1-Cyclohexyl-3-buten-2(S)-amine
42.2 ml (336 mmol) of an approximately 48% solution of boron trifluoride in ether are added at 5° C. to a solution of 23.1 g (67.2 mmol) of 3(S)-(Boc-amino)-2(R,S)-hydroxy-4-cyclohexyl-1-trimethylsilyl-butane in 460 ml of methylene chloride. The reaction mixture is then stirred for 6 h at RT and 3M sodium carbonate solution is added. The aqueous phase is removed and extracted twice with methylene chloride. The organic extracts are washed with brine, dried over sodium sulfate and concentrated by evaporation. The title product is further used without additional purification.

reactant | boron trifluoride | B(F)(F)F | BF3
reactant | 3(S)-(Boc-amino)-2(R,S)-hydroxy-4-cyclohexyl-1-trimethylsilyl-butane | 67.2 mmol, 23.1 g | C(=O)(OC(C)(C)C)N[C@H](C(C[Si](C)(C)C)O)CC1CCCCC1 | C18H37NO3Si
reactant | sodium carbonate | 3M | C([O-])([O-])=O.[Na+].[Na+]
solvent | ether | CCOCC | C4H10O
solvent | methylene chloride | 460 ml | C(Cl)Cl | CH2Cl2
product | 1-Cyclohexyl-3-buten-2(S)-amine | C1(CCCCC1)C[C@@H](C=C)N | C10H19N
